US08557983B2
tert-butyl 4-chloro-3-formyl-5,6-dihydropyridine-1(2H)-carboxylate
To N,N-dimethylformamide (3.87 mL) at 0° C., POCl3 (3.73 mL) was added dropwise, maintaining the temperature below 5° C. The resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was then cooled in ice bath. Tert-butyl 4-oxopiperidine-1-carboxylate (4.98 g) was added slowly, as a solution in dichloromethane (20 mL). After the addition was complete, the ice bath was removed and the reaction was stirred at room temperature for 1 hour. The reaction mixture was poured over ice and solid sodium acetate, and stirred for 15 minutes, then extracted with dichloromethane. The extracts were washed thoroughly with water and with brine, and dried over MgSO4, filtered, and concentrated under vacuum to obtain the title compound, and used without further purification.

reactant | N,N-dimethylformamide | 3.87 mL | CN(C=O)C | C3H7NO
reactant | POCl3 | 3.73 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Tert-butyl 4-oxopiperidine-1-carboxylate | 4.98 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 4-chloro-3-formyl-5,6-dihydropyridine-1(2H)-carboxylate | ClC1=C(CN(CC1)C(=O)OC(C)(C)C)C=O | C11H16ClNO3
